US05786379
(a) Preparation of 3-(1-adamantyl)-1-bromo-4-methoxyethoxymethoxybenzene
3.8 g (0.13 mol) of sodium hydride (80% in oil) and 50 ml of DMF were introduced into a three-necked flask under a stream of nitrogen and a solution of 40 g (0.13 mol) of 2-(1-adamantyl)-4-bromophenol in 100 ml of DMF was added dropwise. The mixture was stirred until the evolution of gas had ceased. A solution of 18 ml (0.15 mol) of 2-methoxyethoxymethyl chloride in 20 ml of DMF was then added dropwise and the mixture was stirred for four hours at room temperature. The reaction medium was poured into water and extracted with ethyl ether. The organic phase was separated out after settling had taken place, washed with water, dried over magnesium sulfate and evaporated. The residue was purified by chromatography on a column of silica, eluted with a mixture of dichloromethane and hexane (50/50). After evaporation of the solvents, 40.1 g (78%) of the expected compound, having a melting point of 69°-70° C., were recovered.

reactant | sodium hydride | 0.13 mol, 3.8 g | [H-].[Na+]
reactant | 2-(1-adamantyl)-4-bromophenol | 0.13 mol, 40 g | C12(CC3CC(CC(C1)C3)C2)C2=C(C=CC(=C2)Br)O | C16H19BrO
reactant | 2-methoxyethoxymethyl chloride | 0.15 mol, 18 ml | COCCOCCl | C4H9ClO2
reactant | water | O | H2O
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
solvent | DMF | 20 ml | CN(C)C=O | C3H7NO
solvent | DMF | 50 ml | CN(C)C=O | C3H7NO
product | 3-(1-adamantyl)-1-bromo-4-methoxyethoxymethoxybenzene | C12(CC3CC(CC(C1)C3)C2)C=2C=C(C=CC2OCOCCOC)Br | C20H27BrO3
